US08536179B2
12a) (2Z)-3-Hydroxy-1-(4-pyridinyl)-2-buten-1-one
To a solution of ethyl 4-pyridinecarboxylate (30 g, 198 mmol) and acetone (34.58 g, 595 mmol) in THF (150 mL) was slowly added NaOMe (12.87 g, 238 mmol) at 35-40° C. The mixture was stirred at room temperature for 0.5 h, and then heated at reflux for 3 h. The mixture was cooled to room temperature and filtered to give a solid, which was washed with t-BuOMe, and dissolved in H2O. The solution was acidified with acetic acid and the resulting oily product was extracted with CHCl3. The solvent was removed in vacuo, and the crude product was obtained (12 g, 37%) and used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 8.73 (d, 2H), 7.76 (d, 2H), 6.63 (s, 1H), 2.21 (s, 3H); note: enolic OH does not appear.

reactant | ethyl 4-pyridinecarboxylate | 198 mmol, 30 g | N1=CC=C(C=C1)C(=O)OCC | C8H9NO2
reactant | acetone | 595 mmol, 34.58 g | CC(=O)C | C3H6O
reactant | NaOMe | 238 mmol, 12.87 g | C[O-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (2Z)-3-Hydroxy-1-(4-pyridinyl)-2-buten-1-one | O\C(=C/C(=O)C1=CC=NC=C1)\C | C9H9NO2
